US06255305B1
7-(1-Methylcyclopentyl)-6-(3-methylpyridin-2-ylmethoxv)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine
2-Hydroxymethyl-3-methylpyridine (43 mg) was dissolved in dimethylformamide (2 ml) under N2. Sodium hydride (60% w/w in oil, 14 mg) was added followed after 5-10 minutes by 6-chloro-7-(1-methylcyclopentyl)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine (100 mg). Reaction was stirred at room temperature for 18 hours, partitioned between ethyl acetate and water, organic phase separated, dried (MgSO4) and evaporated to dryness. Recrystled from ethyl acetate to give pure product. 1H NMR (360 MHz, CDCl3) δ1.30 (3 H, s), 1.77 (6 H, m), 1.93 (2 H, m), 2.44 (3 H, s), 5.62 (2 H, s), 7.25 (1 H, m), 7.50 (3 H, m), 7.58 (1 H, d, J=7.8 Hz), 7.92 (1 H, s), 8.42 (2 H, d, J=6.4 Hz), 8.50 (1 H, m), ms (ES+) m/e 400 [MH]+.

reactant | 2-Hydroxymethyl-3-methylpyridine | 43 mg | OCC1=NC=CC=C1C | C7H9NO
reactant | Sodium hydride | 14 mg | [H-].[Na+]
reactant | 6-chloro-7-(1-methylcyclopentyl)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | 100 mg | ClC=1C(=CC=2N(N1)C(=NN2)C2=CC=CC=C2)C2(CCCC2)C | C17H17ClN4
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 7-(1-Methylcyclopentyl)-6-(3-methylpyridin-2-ylmethoxv)-3-phenyl-1,2,4-triazolo[4,3-b]pyridazine | CC1(CCCC1)C1=CC=2N(N=C1OCC1=NC=CC=C1C)C(=NN2)C2=CC=CC=C2 | C24H25N5O
